US04871730
To a suspension of benzhydryl 7-formamido-3-[(Z)-2-(2-methyl-5-pyridyl)vinylthio]-3-cephem-4-carboxylate (17.5 g) in methanol (90 ml) was added conc. hydrochloric acid (10.0 ml) at ambient temperature and the mixture was stirred at 30° C. to 35° C. for 2.5 hours. The reaction mixture was poured into a mixture of cold water (250 ml), tetrahydrofuran (250 ml) and ethyl acetate (500 ml). The resultant mixture was adjusted to pH 7 with a saturated aqueous solution of sodium bicarbonate. The separated organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give benzhydryl 7-amino-3-[(Z)-2-(2-methyl-5-pyridyl)vinylthio]-3-cephem-4-carboxylate (14.1 g).

reactant | benzhydryl 7-formamido-3-[(Z)-2-(2-methyl-5-pyridyl)vinylthio]-3-cephem-4-carboxylate | 17.5 g | C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=CC(=NC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25N3O4S2
reactant | hydrochloric acid | 10.0 ml | Cl | ClH
reactant | water | 250 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 90 ml | CO | CH4O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-amino-3-[(Z)-2-(2-methyl-5-pyridyl)vinylthio]-3-cephem-4-carboxylate | 14.1 g | NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=CC(=NC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H25N3O3S2
